US05846998
For potassium (2,2'-bipyridine) oxodiperoxovanadium (V), vanadium pentoxide (0.91 g) and potassium hydroxide (0.65 g) are dissolved in water (10 ml), cooled, and, if necessary, the dissolution is completed with a small amount of hydrogen peroxide. To the clear, cooled solution, hydrogen peroxide (10 ml) and 2,2'-bipyridine (1.6 g) dissolved in ethanol (7-8 ml) are added. Pure crystals are obtained as described for the analogous oxalato-derivative of potassium. Potassium (1,10-phenanthroline) vanadium (V) can be obtained similarly.

reactant | potassium (2,2'-bipyridine) | N1=C(C=CC=C1)C1=NC=CC=C1.[K]
reactant | vanadium pentoxide | 0.91 g | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
reactant | potassium hydroxide | 0.65 g | [OH-].[K+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | 2,2'-bipyridine | 1.6 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | potassium | [K] | K
solvent | water | 10 ml | O | H2O
solvent | ethanol | 7-8 ml | C(C)O | C2H6O
product | Potassium (1,10-phenanthroline) vanadium (V) | [V+5].N1=CC=CC2=CC=C3C=CC=NC3=C12.[K+] | InChI=1S/C12H8N2.K.V/c1-3-9-5-6-10-4-2-8-14-12(10)11(9)13-7-1;;/h1-8H;;/q;+1;+5
